US06833387B1
s-Butyl 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate
N,N-dimethylformamide di-t-butyl acetal (19.90 ml) was added dropwise to a suspension of 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylic acid (8.31 g) in toluene (150 ml), under an atmosphere of argon, and stirred at ambient temperature for 2 hours. The reaction was cooled, filtered, and washed with brine (100 ml), saturated NaHCO3 (aq.) (100 ml), and brine (100 ml), dried (MgSO4) and concentrated in vacuo to afford the product as a clear oil that crystallised upon standing (7.65 g, 81%); NMR d (CD3SOCD3) 1.49 (s, 9H), 5.76 (s, 2H), 6.86 (m, 1H), 7.24 (t, 1H), 7.35-7.68 (m, 5H); M/z (+) 456 (MH−), 400.

reactant | N,N-dimethylformamide di-t-butyl acetal | 19.90 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylic acid | 8.31 g | BrC1=C(N(C2=CC=CC=C12)CC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C16H10BrCl2NO2
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | s-Butyl 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate | BrC1=C(N(C2=CC=CC=C12)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)CC | C20H18BrCl2NO2
